Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:10][C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13],-2.20008233189
[H:1][O:2][C:3]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:8]([H:9])[H:10],-2.88844195326
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.3015476084500004
[H:1][C:9]([C:8]#[C:2])([C:10]([H:11])[H:12])[H:13].[H:3][C:4]([H:5])([H:6])[C:7]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-5.9180486853
[H:1][O:2][C@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[C:6](=[O:5])[C:7]([H:8])([H:9])[H:10],-1.33148067791
[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.1324563135100005
[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],-2.5377126743400003
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14],4.56901002231
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.89336682212
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.62049818573
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],3.66686888823
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],1.016841758
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17],3.82326140823
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]#[C:4],7.045717580419999
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.4098094289200005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10],4.3983395097
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.5584979212
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3][C:9]([H:10])[H:11].[C:4]([H:5])([H:6])=[C:7][H:8],2.27875800495
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:1],4.0970953024000005
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5201654551
[H:5].[O:1]=[C:2]([C:3][H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.86551460816
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8],6.92222579768
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-7.11604235005
[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.5672359249000003
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.48939835224
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10][H:11],3.89317146698
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:8][C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-4.31623117809
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-2.00646578914
